US07807671B2
Preparation of ethyl 3-(4-fluoro-3-(2-oxo-2-(4-(3-phenyl-1H-pyrazol-4-yl)piperazin-1-yl)acetyl)-1H-pyrrolo[2,3-c]pyridin-7-yl)-1H-pyrazole-5-carboxylate
To a solution of 2-(7-(5-(ethoxycarbonyl)-1H-pyrazol-3-yl)-4-fluoro-1H-pyrrolo[2,3-c]pyridin-3-yl)-2-oxoacetic acid (0.017g, 0.049 mmol) in DMF (1.5 mL) was added TBTU (0.017 g, 0.054 mmol), diisopropylethylamine (0.15 mL), and 1-(3-phenyl-1H-pyrazol-4-yl)piperazine (0.011 g, 0.049 mmol). The mixture was stirred under N2 at rt for 14.5 h and was quenched with 10 mL of H2O. The solvent was removed under reduced pressure, and the residue was dissolved in DMF. The DMF solution was passed though a plug of celite to remove solids, and the DMF solution was purified by prep HPLC to give the title compound as a white solid (13.3 mg).

reactant | 2-(7-(5-(ethoxycarbonyl)-1H-pyrazol-3-yl)-4-fluoro-1H-pyrrolo[2,3-c]pyridin-3-yl)-2-oxoacetic acid | 0.049 mmol, 0.017g | C(C)OC(=O)C1=CC(=NN1)C=1N=CC(=C2C1NC=C2C(C(=O)O)=O)F | C15H11FN4O5
reactant | TBTU | 0.054 mmol, 0.017 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | diisopropylethylamine | 0.15 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 1-(3-phenyl-1H-pyrazol-4-yl)piperazine | 0.049 mmol, 0.011 g | C1(=CC=CC=C1)C1=NNC=C1N1CCNCC1 | C13H16N4
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
product | ethyl 3-(4-fluoro-3-(2-oxo-2-(4-(3-phenyl-1H-pyrazol-4-yl)piperazin-1-yl)acetyl)-1H-pyrrolo[2,3-c]pyridin-7-yl)-1H-pyrazole-5-carboxylate | 13.3 mg | FC1=C2C(=C(N=C1)C1=NNC(=C1)C(=O)OCC)NC=C2C(C(N2CCN(CC2)C=2C(=NNC2)C2=CC=CC=C2)=O)=O | C28H25FN8O4
